US04906634
1-Butyl-2-pyrrolidinemethanol
To 10.1 g (0.1 mol) of 2-pyrrolidinemethanol and 13.8 g (0.1 mol) of potassium carbonate in 200 mL of acetonitrile add 13.7 g (0.1 mol) of butyl bromide. Heat the reaction mixture at reflux with stirring under a nitrogen atmosphere. Follow the progress of the reaction by thin-layer chromatography on silica gel. At the completion of the reaction remove the solvent in vacuo then dissolve the residue in water. Make the aqueous mixture acidic (pH=1) with concentrated hydrochloric acid. Extract the aqueous acid solution with 3×50 mL of hexanes. Make the aqueous solution basic (pH=12) with 20% sodium hydroxide solution and extract with 3×100 mL of methylene chloride. Dry the combined methylene chloride extracts over anhydrous sodium sulfate. Filter the drying agent and evaporate the filtrate in vacuo to obtain the title compound.

reactant | 2-pyrrolidinemethanol | 0.1 mol, 10.1 g | N1C(CCC1)CO | C5H11NO
reactant | potassium carbonate | 0.1 mol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | butyl bromide | 0.1 mol, 13.7 g | C(CCC)Br | C4H9Br
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 1-Butyl-2-pyrrolidinemethanol | C(CCC)N1C(CCC1)CO | C9H19NO
